US07491713B2
Step C: 1-Piperidin-4-ylimidazolidine-2,4-dione
Trifluoroacetic acid (0.300 mL) was added to a solution of tert-butyl 4-(2,4-dioxoimidazolidin-1-yl)piperidine-1-carboxylate (32 mg, 0.113 mmol) in dichloromethane (1 mL). After 4 h, the reaction was concentrated to give the title compound. MS 184.04 (M+1).

reactant | Trifluoroacetic acid | 0.300 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(2,4-dioxoimidazolidin-1-yl)piperidine-1-carboxylate | 0.113 mmol, 32 mg | O=C1N(CC(N1)=O)C1CCN(CC1)C(=O)OC(C)(C)C | C13H21N3O4
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 1-Piperidin-4-ylimidazolidine-2,4-dione | N1CCC(CC1)N1C(NC(C1)=O)=O | C8H13N3O2
